US07872031B2
A solution of N-(4-methoxybenzyl)-3-(5-(2,3-dichlorophenyl)thiazol-4-yl)-5-(pyridin-3-yl)pyridin-2-amine (24 mg, 0.046 mmol) in TFA (1 mL) was heated to reflux overnight. The solvent was removed in vacuo and the compound was purified by reversed-phase HPLC to provide 3-(5-(2,3-dichlorophenyl)thiazol-4-yl)-5-(pyridin-3-yl)pyridin-2-amine as a while solid [2.2 mg, 9% yield; LC-MS M+H=399.2; 1H-NMR (300 MHz, methanol-d4) 9.34 (1H, s), 8.57 (1H, dd), 8.41 (1H, d), 8.28 (1H, d), 7.79 (1H, d), 7.71 (1H, dd), 7.58 (1H, dd), 7.57 (1H, t), 7.46 (1H, t), 2.64 (3H, s)].

reactant | N-(4-methoxybenzyl)-3-(5-(2,3-dichlorophenyl)thiazol-4-yl)-5-(pyridin-3-yl)pyridin-2-amine | 0.046 mmol, 24 mg | COC1=CC=C(CNC2=NC=C(C=C2C=2N=CSC2C2=C(C(=CC=C2)Cl)Cl)C=2C=NC=CC2)C=C1 | C27H20Cl2N4OS
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-(5-(2,3-dichlorophenyl)thiazol-4-yl)-5-(pyridin-3-yl)pyridin-2-amine | 9% yield | ClC1=C(C=CC=C1Cl)C1=C(N=CS1)C=1C(=NC=C(C1)C=1C=NC=CC1)N | C19H12Cl2N4S
